US08106077B2
1-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-ethanol
To a 0° C. solution of 1-{4-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-ethanone (314 mg, 0.751 mmol) in THF/MeOH (6 mL/1 mL) is added sodium borohydride (116 mg, 3.04 mmol). The reaction is warmed to room temperature overnight. The reaction is concentrated and the residue is partitioned between EtOAc (100 mL) and 1 N HCl (20 mL). The aqueous layer is extracted with EtOAc (100 mL) and the combined organic layers are washed with brine, dried (MgSO4), filtered, and concentrated under reduced pressure. The residue is purified via chromatography (40 g SiO2, 20% to 40% EtOAC/Hexanes) to yield the title compound (298 mg, 94%). LC-ES/MS m/e 419.7 (M+1).

reactant | 1-{4-[3-(2,6-dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-ethanone | 0.751 mmol, 314 mg | ClC1=C(C(=CC=C1)Cl)N1N=NC(=C1COC1=CC(=C(C=C1)C(C)=O)C)C(C)C | C21H21Cl2N3O2
reactant | sodium borohydride | 3.04 mmol, 116 mg | [BH4-].[Na+]
solvent | THF MeOH | 6 mL | C1CCOC1.CO
product | 1-{4-[3-(2,6-Dichloro-phenyl)-5-isopropyl-3H-[1,2,3]triazol-4-ylmethoxy]-2-methyl-phenyl}-ethanol | 298 mg, 94% | ClC1=C(C(=CC=C1)Cl)N1N=NC(=C1COC1=CC(=C(C=C1)C(C)O)C)C(C)C | C21H23Cl2N3O2
